US06316477B1
5-Amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-3- pyrazolecarboxamide oxime
5-Amino-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)pyrazole (10.0 g, 31.1 mmol) was dissolved in 150 ml of dry dioxane, and then hydroxylamine hydrochloride (3.35 g, 46.8 mmol) and triethylamine (6.6 ml, 47.4 mmol) were added with stirring at room temperature. The mixture was stirred at room temperature for 74 hours and the reaction solution was poured into 300 ml of iced water. The solution was stirred for 30 minutes and the deposited crystal was filtered. The resulting crystal was washed with water and then dried under reduced pressure to obtain 8.30 g (23.4 mmol) of the title compound as a colorless crystal. The aqueous layer obtained by combining the above filtrate and wash was extracted three times with 150 ml of ethyl acetate. The extracted solution was washed three times with 500 ml of an aqueous saturated sodium chloride solution and the organic layer was dried over anhydrous magnesium sulfate. After concentrating under reduced pressure, the resulting crystal was washed with 50 ml of chloroform-hexane (1:1) and then filtered to obtain 1.19 g (3.36 mmol) of the title compound as a pale brown crystal. Yield 86%.

reactant | 5-Amino-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)pyrazole | 31.1 mmol, 10.0 g | NC1=CC(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N | C11H5Cl2F3N4
reactant | hydroxylamine hydrochloride | 46.8 mmol, 3.35 g | Cl.NO
reactant | triethylamine | 47.4 mmol, 6.6 ml | C(C)N(CC)CC | C6H15N
reactant | water | 300 ml | O | H2O
solvent | dioxane | 150 ml | O1CCOCC1 | C4H8O2
product | 5-Amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-3- pyrazolecarboxamide oxime | 23.4 mmol, 8.30 g | NC1=CC(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C(N)=NO | C11H8Cl2F3N5O
